US08137821B2
After a 250 mL three-neck flask equipped with a magnetic stirrer, a reflux condenser, a thermometer and a dropping funnel was replaced with Ar, 5-fluoro-7-propyl-8-quinolinol (3.98 g, 19.4 mmol), 20.0 mL of methylene chloride and triethylamine (3.53 mL, 25.2 mmol) were thrown thereto and the internal temperature was cooled to 0° C. under stirring in an ice bath, followed by dropwise addition of trifluoromethanesulfonic anhydride (3.60 mL, 21.3 mmol). After completion of the dropwise addition, the reaction mixture varied to approximately black was stirred for 1 hour while maintaining the reaction temperature to 0° C. After completion of the reaction, 100 mL of water and 100 mL of diethyl ether were added to the reaction mixture to separate the solution and the resulting organic layer was washed with 1 mol/L of hydrochloric acid (60 mL×twice) and water (60 mL×once) in the order and dried over 25, magnesium sulfate. After filtration, diethyl ether was distilled off from the filtrate under reduced pressure and the resulting residue was dissolved in 100 mL of hexane at 70° C. The insolubles were filtered off, and then the filtrate was cooled to give 4.19 g of 5-fluoro-7-propyl-8-trifluoromethanesulfonyloxyquinoline as a brownish white crystal (yield: 64.0%).

reactant | 5-fluoro-7-propyl-8-quinolinol | 19.4 mmol, 3.98 g | FC1=C2C=CC=NC2=C(C(=C1)CCC)O | C12H12FNO
reactant | methylene chloride | 20.0 mL | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 25.2 mmol, 3.53 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 21.3 mmol, 3.60 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
product | 5-fluoro-7-propyl-8-trifluoromethanesulfonyloxyquinoline | 4.19 g, yield: 64.0% | FC1=C2C=CC=NC2=C(C(=C1)CCC)OS(=O)(=O)C(F)(F)F | C13H11F4NO3S
